US07851473B2
(1) 2,2,2-Trichloroethyl (1-methyl-1H-pyrazol-5-yl)carbamate
To a solution of 1-methyl-1H-pyrazole-5-amine (1.00 g, 10.3 mmol) and pyridine (1.01 ml, 12.4 mmol) in tetrahydrofuran (34 ml) was added 2,2,2-trichloroethyl chloroformate (1.71 ml, 12.4 mmol) with ice-cooling and the mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain the desired product (1.43 g, 50.8%) as an oil.

reactant | 1-methyl-1H-pyrazole-5-amine | 10.3 mmol, 1.00 g | CN1N=CC=C1N | C4H7N3
reactant | pyridine | 12.4 mmol, 1.01 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 12.4 mmol, 1.71 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 34 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl (1-methyl-1H-pyrazol-5-yl)carbamate | 1.43 g, 50.8% | CN1N=CC=C1NC(OCC(Cl)(Cl)Cl)=O | C7H8Cl3N3O2
